US08278328B2
Description 52. 2-Amino-4-(trifluoromethyl)phenol. (D52)
A solution of 2-nitro-4-(trifluoromethyl)phenol (100 mg, 0.483 mmol) in ethanol (10 mL) was pumped through an H-cube™ hydrogenator CatCart (Pd/C, 30×4 mm) at a flow rate of 1 mL/min at 40° C. and 40 psi, topping up the solution with methanol (10×1 mL) when it was running low. The collected solution was evaporated to dryness to give an off-white solid (88 mg, assume quantitative yield). The material was carried forward without further purification.

reactant | 2-nitro-4-(trifluoromethyl)phenol | 0.483 mmol, 100 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3NO3
reactant | methanol | 1 mL | CO | CH4O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-Amino-4-(trifluoromethyl)phenol | quantitative yield | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
